US05556863
Preparation of 3-butyryl-4-(2,6-dimethylphenylamino)-8-(2-methylthioethoxy)quinoline
A mixture of 3-butyryl-4-chloro-8-(2-methylthioethoxy)quinoline (0.8 g, 2.5 mmol) and 2,6-dimethylaniline (0.45 g, 3.7 mmol) in toluene (12 ml) was heated to 90° C. and stirred 3.0 h. After cooling to room temperature, methylene chloride and water were added. The mixture was neutralized with a saturated solution of sodium bicarbonate. The organic layer was dried over sodium sulfate and evaporated. Chromatography (SiO2 ; EtOAc) gave 0.7 g (68%) of the title compound.

reactant | 3-butyryl-4-chloro-8-(2-methylthioethoxy)quinoline | 2.5 mmol, 0.8 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1Cl)OCCSC | C16H18ClNO2S
reactant | 2,6-dimethylaniline | 3.7 mmol, 0.45 g | CC1=C(N)C(=CC=C1)C | C8H11N
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | 12 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 3-butyryl-4-(2,6-dimethylphenylamino)-8-(2-methylthioethoxy)quinoline | 0.7 g, 68% | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=CC=C1C)C)OCCSC | C24H28N2O2S
